US07504408B2
N-[5-chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-yl]-5-isopropoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-5-isopropoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine (0.162 g), 2-ethynyl pyridine (0.03 ml), palladium(II) bis-triphenylphosphine dichloride (0.020 g) and copper (I) iodide (0.006 g) was taken up into ethyl acetate (5 ml) and cooled to −10° C. This was set to stir rapidly, then diisopropylamine (0.047 ml) was added and the reaction was stirred cold for 30 minutes before being warmed to room temperature and left to stir for 18 hours. The reaction mixture was then filtered through Celite under suction (washing the Celite with a further portion of ethyl acetate) then the combined filtrate solutions were evaporated under reduced pressure to give a brown gum. This was then purified by column chromatography on silica using increasingly polar mixtures of methanol in dichloromethane as eluent. There was thus obtained the title compound (0.090 g) as a pale brown foam; NMR Spectrum: (CDCl3) 1.54 (d, 6H), 2.04 (quin, 2H), 2.50 (m, 4H), 2.56 (t, 2H), 3.74 (t, 4H), 4.16 (t, 2H), 4.83 (sept, 1H), 6.14 (s, 2H), 6.50 (d, 1H), 6.84 (d, 1H), 7.19 (s, 1H), 7.25 (m, 1H), 7.54 (d, 1H), 7.68 (td, 1H), 8.53 (s, 1H), 8.63 (dd, 1H), 9.46 (s, 1H); Mass Spectrum: M+H+ 602/604.

reactant | N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-5-isopropoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 0.162 g | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCN1CCOCC1 | C25H28ClIN4O5
reactant | 2-ethynyl pyridine | 0.03 ml | C(#C)C1=NC=CC=C1 | C7H5N
reactant | diisopropylamine | 0.047 ml | C(C)(C)NC(C)C | C6H15N
catalyst | copper (I) iodide | 0.006 g | [Cu]I
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-[5-chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-yl]-5-isopropoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 0.090 g | ClC1=C(C2=C(OCO2)C(=C1)C#CC1=NC=CC=C1)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCN1CCOCC1 | C32H32ClN5O5
